US05232898
Analogously to the procedure described in Example 1, starting from ethyl 3-amino-4,4,4-trifluorocrotonate and 3,4-dihydro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine there is obtained 6-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine (not isolated) and, after cyclization of this benzoxazine, there is obtained 3-[3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazin-6-yl]-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione, m.p. >250° C.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 3,4-dihydro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | N(=C=O)C=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C12H8N2O3
product | 6-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | C(C)OC(=O)C=C(C(F)(F)F)NC(NC=1C=CC2=C(N(C(CO2)=O)CC#C)C1)=O | C18H16F3N3O5
